US07192968B2
(±)-cis-N1,N2-Bis(tert-butoxycarbonyl)-4-methoxyimino-1,2-cyclohexanediamine
cis-N1,N2-Bis(tert-butoxycarbonyl)-4-oxo-1,2-cyclohexanediamine (1.5 g) was dissolved in methanol (30 ml), and O-methylhydroxylamine hydrochloride (572 mg) and pyridine (737 ml) were added to stir the mixture at room temperature for 17 hours. After the reaction mixture was concentrated, water was added to conduct extraction with ethyl acetate. The resultant organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:4) to obtain the title compound (1.52 g) as a colorless solid.

reactant | cis-N1,N2-Bis(tert-butoxycarbonyl)-4-oxo-1,2-cyclohexanediamine | 1.5 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC(CC1)=O)NC(=O)OC(C)(C)C | C16H28N2O5
reactant | O-methylhydroxylamine hydrochloride | 572 mg | Cl.CON
reactant | pyridine | 737 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 30 ml | CO | CH4O
product | (±)-cis-N1,N2-Bis(tert-butoxycarbonyl)-4-methoxyimino-1,2-cyclohexanediamine | 1.52 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CC(CC1)=NOC)NC(=O)OC(C)(C)C | C17H31N3O5
